US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (300 mg, 0.71 mmol) with 1-(4-aminomethyl-3-chloro-phenyl)-3,3-dimethyl-butan-1-one (338 mg, 1.41 mmol) by using tris(dibenzylideneacetone)dipalladium(0) (130 mg, 9.142 mmol), BINAP (177 mg, 0.284 mmol) and cesium carbonate (324 mg, 0.994 mmol) in anhydrous toluene (31 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (92:8) followed by reverse phase HPLC [Hichrom Kromasil C18, 5 □M 21.2×100 mm, eluting with water/acetonitrile (0.05% TFA in each) (1:4 to 1:19 gradient over 5 min), flow rate 25 mL/min, UV detector (230 nm)] to give 7-chloro-6-[2-chloro-4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (77 mg, 21%). MS (ES+) m/z: 516 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.71 mmol, 300 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 1-(4-aminomethyl-3-chloro-phenyl)-3,3-dimethyl-butan-1-one | 1.41 mmol, 338 mg | NCC1=C(C=C(C=C1)C(CC(C)(C)C)=O)Cl | C13H18ClNO
reactant | BINAP | 0.284 mmol, 177 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.994 mmol, 324 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 31 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 9.142 mmol, 130 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[2-chloro-4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 77 mg, 21% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=C(C=C(C=C1)C(CC(C)(C)C)=O)Cl | C25H27Cl2F3N2O2
